US07691892B2
f) 3-(5-{1-[Methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amino]-ethyl}-tetrazol-2-yl)-benzonitrile
The title compound is prepared from {1-[2-(3-Iodo-phenyl)-2H-tetrazol-5-yl]-ethyl}-methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine (1 mmol), zinc cyanide (1.1 mmol), palladium (0) tetrakis-triphenylphosphine (0.05 mmol) in DMF (5 mL) at 80° C. overnight.

reactant | {1-[2-(3-Iodo-phenyl)-2H-tetrazol-5-yl]-ethyl}-methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine | 1 mmol | IC=1C=C(C=CC1)N1N=C(N=N1)C(C)N(C1=NN=C(N1C)C1=CC=NC=C1)C | C18H18IN9
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.1 mmol | [C-]#N.[Zn+2].[C-]#N
product | 3-(5-{1-[Methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amino]-ethyl}-tetrazol-2-yl)-benzonitrile | CN(C(C)C=1N=NN(N1)C=1C=C(C#N)C=CC1)C1=NN=C(N1C)C1=CC=NC=C1 | C19H18N10
